// "spectre" description for "16nm", "Controller_TagWrite", "spectreText" 


simulator lang=spectre
subckt Controller_TagWrite TagWE WriteToL1MissTagAck TagWDataSel L2DataOutTagAck TagWrRegReq WriteToL1MissReq TagWrRegAck L2DataOutReq TagWAck
  I1 (p1 WriteToL1MissReq TagWrRegAck) nand_1x
  I2 (p2 L2DataOutReq TagWrRegAck y2_n1) nand3_1x
  I3 (y2_n1 y2) inv_1x
  I4 (p3 TagWAck_n1 L2DataOutReq) nand_1x
  I5 (TagWAck_n1 TagWAck) inv_1x
  I6 (p4 WriteToL1MissReq WriteToL1MissReq) nand_1x
  I7 (p5 TagWAck_n1 y0_n1 y2_n1) nand3_1x
  I8 (y0_n1 y0) inv_1x
  I9 (p6 TagWAck_n1 TagWrRegAck y2_n1) nand3_1x
  I10 (p7 TagWAck L2DataOutReq_n1 y0_n1) nand3_1x
  I11 (L2DataOutReq_n1 L2DataOutReq) inv_1x
  I12 (p8 TagWrRegAck y0_n1) nand_1x
  I13 (p9 WriteToL1MissReq_n1 TagWAck y0) nand3_1x
  I14 (WriteToL1MissReq_n1 WriteToL1MissReq) inv_1x
  I15 (p10 TagWrRegAck y0) nand_1x
  I16 (p11 TagWAck_n1 L2DataOutReq_n1 TagWrRegAck_n1) nand3_1x
  I17 (TagWrRegAck_n1 TagWrRegAck) inv_1x
  I18 (p12 L2DataOutReq_n1 y0) nand_1x
  I19 (p13 WriteToL1MissReq_n1 L2DataOutReq_n1 y2) nand3_1x
  I20 (y0 p10 p11 p12) nand3_1x
  I21 (y1 p1 p3 p6 p7 p8) nand5_1x
  I22 (y2 p7 p9 p11 p13) nand4_1x
  I23 (TagWE p1 p2 p6) nand3_1x
  I24 (WriteToL1MissTagAck p9 p10) nand_1x
  I25 (TagWDataSel p2 p3 p5) nand3_1x
  I26 (L2DataOutTagAck p7 p8) nand_1x
  I27 (TagWrRegReq p2 p3 p4 p6) nand4_1x
ends Controller_TagWrite